US06747030B1
cis-7-(4-Benzyl-3,5-dimethylpiperazin-1-yl)-6-methoxyquinoline (D21)
The title compound was prepared from cis-1-benzyl-2,6-dimethylpiperazine (Org. Prep. Proc. 1976, 8, 19) and 7-bromo-6-methoxyquinoline (J. Org. Chem. 1990, 55, 2019) using a similar procedure to Description 2 (75%).

reactant | cis-1-benzyl-2,6-dimethylpiperazine | C(C1=CC=CC=C1)N1[C@H](CNC[C@H]1C)C | C13H20N2
reactant | 7-bromo-6-methoxyquinoline | BrC1=C(C=C2C=CC=NC2=C1)OC | C10H8BrNO
product | cis-7-(4-Benzyl-3,5-dimethylpiperazin-1-yl)-6-methoxyquinoline | C(C1=CC=CC=C1)N1[C@@H](CN(C[C@@H]1C)C1=C(C=C2C=CC=NC2=C1)OC)C | C23H27N3O
